US07868014B2
Cool down a suspension of Dess Martin periodinane (279 mg, 0.65 mmol) in dry dichloromethane (1 mL) under nitrogen with an ice bath and add a solution of trans-3-fluoro-4-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester (90 mg, 0.44 mmol) in dry dichloromethane (1 mL). Stir under nitrogen and allow to warm up to room temperature overnight. Add saturated aqueous sodium hydrogen carbonate, then saturated aqueous sodium thiosulfate and extract with dichloromethane. Combine the organic layers, wash with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give 3-fluoro-4-oxopyrrolidine-1-carboxylic acid tert-butyl ester which may be used without further purification. Characteristic peaks in the NMR include the proton alpha to the fluorine atom (5.01, 1H, ddd, J=51.52, 7.54, 7.25 Hz).

reactant | Dess Martin periodinane | 0.65 mmol, 279 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | trans-3-fluoro-4-hydroxypyrrolidine-1-carboxylic acid tert-butyl ester | 0.44 mmol, 90 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)O)F | C9H16FNO3
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 3-fluoro-4-oxopyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(C1)=O)F | C9H14FNO3
